US08258130B2
A mixture of 3-methyl-pyrrolo[3,2-c]pyridin-1-ylamine (224 mg, 1.52 mmol), 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (354 mg, 1.52 mmol), HATU (693 mg, 1.82 mmol) and DIPEA (593 mg, 4.59 mmol) in DMF (8 mL) is heated at 1500 C. for 1 h. The reaction is quenched with water, NaHCO3 (168 mg, 2 mmol) is added and the mixture is extracted with EtOAc. The organic layer is separated, dried (Na2SO4), filtered and concentrated. The residue is first purified by silica gel column chromatography eluting with 10% MeOH in DCM and then recrystallized from EtOAc to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-c]pyridin-1-yl)-amide (198 mg). MS: 362 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.12 (s, 1H), 8.86 (s, 1H), 8.35 (d, 1H), 8.15-8.31 (m, 2H), 7.47-7.60 (m, 2H), 7.35 (s, 1H), 7.29 (t, 1H), 2.84 (s, 3H), 2.44 (s, 3H).

reactant | 3-methyl-pyrrolo[3,2-c]pyridin-1-ylamine | 1.52 mmol, 224 mg | CC1=CN(C2=C1C=NC=C2)N | C8H9N3
reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid | 1.52 mmol, 354 mg | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)O | C12H9FN2O2
reactant | HATU | 1.82 mmol, 693 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 4.59 mmol, 593 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 2 mmol, 168 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[3,2-c]pyridin-1-yl)-amide | 198 mg | CC1=CN(C2=C1C=NC=C2)NC(=O)C=2C(=NC(=NC2)C2=CC(=CC=C2)F)C | C20H16FN5O
